US05124336
74 g of ethyl 4-formyl-3,3-dimethylbutanoate, prepared in Example 91, are dissolved in 450 ml of anhydrous toluene in the presence of 0.5 g of paratoluenesulfonic acid and 26.7 g of ethylene glycol. The mixture is heated to the reflux temperature and the water formed during the reaction is removed by means of a Dean-Stark apparatus. After refluxing for two hours, the solvent is evaporated off under vacuum and the residue is distilled to give 86.7 g of ethyl 4-(dioxolan-2-yl)-3,3-dimethylbutanoate in the form of a liquid with a boiling point b.p. 10 of 138°-140° C.

reactant | ethyl 4-formyl-3,3-dimethylbutanoate | 74 g | C(=O)CC(CC(=O)OCC)(C)C | C9H16O3
reactant | ethylene glycol | 26.7 g | C(CO)O | C2H6O2
reactant | water | O | H2O
solvent | toluene | 450 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl 4-(dioxolan-2-yl)-3,3-dimethylbutanoate | 86.7 g | O1C(OCC1)CC(CC(=O)OCC)(C)C | C11H20O4
